US05872137
Then, 26 g of 3-chloro-4-methoxymethoxy-5-methyl-1-benzoyloxybenzene was dissolved in 200 ml of methanol, and the solution was stirred at room temperature, while adding dropwise 60 ml of 10% aqueous potassium hydroxide solution. After completion of the reaction, the solvent was removed by distillation under reduced pressure. The residue was added to 150 ml of water, neutralized with 10% aqueous hydrochloric acid solution, and extracted with 200 ml of diethyl ether. The solvent was removed by distillation under reduced pressure, and the residue was subjected to silica gel chromatography, which afforded 17.4 g of 3-chloro-4-methoxymethoxy-5-methylphenol (96% yield).

reactant | 3-chloro-4-methoxymethoxy-5-methyl-1-benzoyloxybenzene | 26 g | ClC=1C=C(C=C(C1OCOC)C)OC(C1=CC=CC=C1)=O | C16H15ClO4
reactant | potassium hydroxide | 60 ml | [OH-].[K+]
solvent | methanol | 200 ml | CO | CH4O
product | 3-chloro-4-methoxymethoxy-5-methylphenol | 17.4 g, 96% yield | ClC=1C=C(C=C(C1OCOC)C)O | C9H11ClO3
